US05128356
2-Butyl-7-hydroxymethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole
A mixture of 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]-7-hydroxymethylbenzimidazole (0.4 g), sodium azide (0.98 g) and ammonium chloride (0.8 g) in DMF (4 ml) was stirred for 4 days at 110°-120° C. To the reaction mixture was added water, which was extracted with ethyl acetate. The extract was washed with water and dried. After removal of the solvent, the residue was crystallized from ethyl acetate-methanol to give colorless needles, m.p. 152°-153° C.

reactant | 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]-7-hydroxymethylbenzimidazole | 0.4 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)CO | C26H25N3O
reactant | sodium azide | 0.98 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.8 g | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-Butyl-7-hydroxymethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)CO | C26H26N6O
